US05250526
N-(11-nitroxy-1-undecanyl)-2-(4-ethyl-1-piperazinyl)nicotinamide
5.45 g of N-(11-hydroxy-1-undecanyl)-2-(4-ethyl-1-piperazinyl)nicotinamide were suspended in 100 ml of acetonitrile and to the suspension was added dropwise under ice-cooling a mixed solution of 2.0 ml of fuming nitric acid and 5.2 ml of acetic anhydride and stirred for 5 hrs. This reaction mixture was poured into an aqueous sodium hydrogencarbonate solution, extracted with methylene chloride, washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel column chromatography (chloroform:methanol=20:1) to give 2.52 g (42%) of the title compound.

reactant | N-(11-hydroxy-1-undecanyl)-2-(4-ethyl-1-piperazinyl)nicotinamide | 5.45 g | OCCCCCCCCCCCNC(C1=C(N=CC=C1)N1CCN(CC1)CC)=O | C23H40N4O2
reactant | nitric acid | 2.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 5.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-(11-nitroxy-1-undecanyl)-2-(4-ethyl-1-piperazinyl)nicotinamide | 2.52 g, 42% | O([N+](=O)[O-])CCCCCCCCCCCNC(C1=C(N=CC=C1)N1CCN(CC1)CC)=O | C23H39N5O4
